US08426449B2
Step 1: [3-(2-{[Ethyl-(toluene-4-sulfonyl)-amino]-methyl}-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester
Prepared according to the procedure described in Example 22, Step 1, using the following starting materials: [3-(2-ethylaminomethyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester and p-toluenesulfonyl chloride.

reactant | [3-(2-ethylaminomethyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C19H20F3NO3
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | [3-(2-{[Ethyl-(toluene-4-sulfonyl)-amino]-methyl}-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)CN(S(=O)(=O)C1=CC=C(C=C1)C)CC)=O | C26H26F3NO5S
